US07553973B2
Step 1: 3-(5-Amino-1,3,4-thiadiazol-2-yl)pentan-3-ol
To a −78° C. solution of 2-amino-1,3,4-thiadiazole (commercially available) (2.5 g, 24.72 mmol) in THF (200 mL, 0.1M) was added first n-butyllithium 1.6M hexanes (30.9 mL, 49.4 mmol) followed 15 min later by chlorotrimethylsilane (6.27 mL, 49.4 mmol). The temperature raised to −20° C. for 15 min and cooled back to −78° C. More n-butyllithium 1.6M hexanes (15.45 mL, 24.72 mmol) was added followed 15 min later by 3-pentanone (2.62 mL, 24.72 mmol). The solution was then warmed to rt (overnight). The reaction mixture was quenched with a saturated NH4Cl solution and THF was removed under vacuum. The aqueous phase was extracted with EtOAc (3×) and the combined organic layers were washed with brine, dried over MgSO4 and concentrated. The crude residue obtained was purified by column chromatography (100% EtOAc) to yield the title compound. 1H NMR (400 MHz, acetone-d6): δ 6.3 (bs, 2H), 4.4 (bs, 1H), 2.0-1.7 (m, 4H), 0.9 (t, 6H).

reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
reactant | n-butyllithium | 49.4 mmol, 1.6M, 30.9 mL | C(CCC)[Li]
reactant | chlorotrimethylsilane | 49.4 mmol, 6.27 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | n-butyllithium | 24.72 mmol, 1.6M, 15.45 mL | C(CCC)[Li]
reactant | 3-pentanone | 24.72 mmol, 2.62 mL | CCC(CC)=O | C5H10O
solvent | THF | 0.1M, 200 mL | C1CCOC1 | C4H8O
product | 3-(5-Amino-1,3,4-thiadiazol-2-yl)pentan-3-ol | NC1=NN=C(S1)C(CC)(CC)O | C7H13N3OS
